US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 3-(2-pyrimidinyloxy)-benzaldehyde dimethyl acetal in an analogous manner to that described in Example 1 gave 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9- [3-(2-pyrimidinyloxy)-phenyl]-1,8(2H,5H)-acridinedione. Crystallization from dimethylformamide/water gave a pale yellow crystalline solid of melting point 220-221° C.

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-(2-pyrimidinyloxy)-benzaldehyde dimethyl acetal | COC(C1=CC(=CC=C1)OC1=NC=CC=N1)OC | C13H14N2O3
product | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9- [3-(2-pyrimidinyloxy)-phenyl]-1,8(2H,5H)-acridinedione | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC(=CC=C1)OC1=NC=CC=N1)=O)C | C27H29N3O3
